US07550478B2
N-(5-methoxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methylmethanesulfonamide
To a stirred solution of N-(5-hydroxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide (30 mg, 0.079 mmol) in THF (3 mL) was added NaH (60%, 10 mg, 0.25 mmol) at 0° C. After 10 min, MeI (50 uL, 0.80 mmol) was added, and the resultant mixture was allowed to stir at room temperature for 4 h. The reaction mixture was treated with water, diluted with EtOAc, washed with brine, dried (Na2SO4), concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.71 (s, 1H); 8.07 (s, 1H); 7.19-7.60 (m, 10H); 4.71 (br s, 1H); 3.50 (br s, 3H); 3.28 (s, 3H); 2.79 (s, 3H). LRMS (APCI) calc'd for (C23H23N2O3S) [M+H]+, 407.1; found 407.2.

reactant | N-(5-hydroxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)methanesulfonamide | 0.079 mmol, 30 mg | OC1C2=C(C=CC3=NC=C(C=C31)C3=CC=CC=C3)C=CC(=C2)NS(=O)(=O)C | C21H18N2O3S
reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | MeI | 0.80 mmol, 50 uL | CI | CH3I
reactant | water | O | H2O
reactant | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(5-methoxy-3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-methylmethanesulfonamide | COC1C2=C(C=CC3=NC=C(C=C31)C3=CC=CC=C3)C=CC(=C2)N(S(=O)(=O)C)C | C23H22N2O3S
